US08729102B2
D) N-[(1S)-2-({6-[6-(cyclopropylmethoxy)-1,3-benzoxazol-2-yl]pyridin-3-yl}oxy)-1-methylethyl]acetamide
To a solution of tert-butyl [(1S)-2-({6-[6-(cyclopropylmethoxy)-1,3-benzoxazol-2-yl]pyridin-3-yl}oxy)-1-methylethyl]carbamate (350 mg) in ethyl acetate (20 mL) was added 4M hydrogen chloride/ethyl acetate (10 mL), and the mixture was stirred at room temperature for 2 hr. The solvent was evaporated under reduced pressure, and the residue was dissolved in pyridine (15 mL). Acetic anhydride (163 mg) was added thereto, and the mixture was stirred at room temperature for 15 hr. The reaction mixture was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/methanol), and recrystallized (hexane/ethyl acetate) to give the title compound (201 mg).

reactant | tert-butyl [(1S)-2-({6-[6-(cyclopropylmethoxy)-1,3-benzoxazol-2-yl]pyridin-3-yl}oxy)-1-methylethyl]carbamate | 350 mg | C1(CC1)COC1=CC2=C(N=C(O2)C2=CC=C(C=N2)OC[C@H](C)NC(OC(C)(C)C)=O)C=C1 | C24H29N3O5
reactant | hydrogen chloride ethyl acetate | 4M, 10 mL | Cl.C(C)(=O)OCC
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | N-[(1S)-2-({6-[6-(cyclopropylmethoxy)-1,3-benzoxazol-2-yl]pyridin-3-yl}oxy)-1-methylethyl]acetamide | 201 mg | C1(CC1)COC1=CC2=C(N=C(O2)C2=CC=C(C=N2)OC[C@H](C)NC(C)=O)C=C1 | C21H23N3O4
